US06306860B1
Preparation of 6-[1-(3-amino-2-pyridyl)piperazin-4-yl-carbonyl]nicotinic acid
6-[1-(3-Amino-2-pyridyl)piperazin-4-yl-carbonyl]nicotinic acid methyl ester (3 g) was dissolved in methanol (25 ml) and with the addition of aqueous 1N-sodium hydroxide (20 ml), the mixture was stirred at 25° C. for 2 hours. With the slow addition of 3N-hydrochloric acid for neuturalization (pH=˜5), water (25 ml) was slowly added to the mixture for precipitate. After a 1-hour stirring, the precipitate was filtered, washed with water and dried to give a desired compound of 2.53 g (yield: 88%).

reactant | 6-[1-(3-Amino-2-pyridyl)piperazin-4-yl-carbonyl]nicotinic acid methyl ester | 3 g | COC(C1=CN=C(C=C1)C(=O)N1CCN(CC1)C1=NC=CC=C1N)=O | C17H19N5O3
reactant | hydrochloric acid | Cl | ClH
reactant | water | 25 ml | O | H2O
solvent | methanol | 25 ml | CO | CH4O
solvent | sodium hydroxide | 20 ml | [OH-].[Na+]
product | 6-[1-(3-amino-2-pyridyl)piperazin-4-yl-carbonyl]nicotinic acid | yield: 88% | NC=1C(=NC=CC1)N1CCN(CC1)C(=O)C1=NC=C(C(=O)O)C=C1 | C16H17N5O3
